US05994390
(±)-trans-7-Hydroxy-3-phenyl-4-(4-(2-pyrrolidinoethoxy)phenyl)chromane
trans-7-Methoxy-3-phenyl-4-{4-[2-(pyrrolidin-1-yl)ethoxy]phenyl}chromane (2 g) was dissolved in melted pyridinium chloride, prepared from a mixture of pyridine (10 ml) and conc. hydrochloric acid where the water has been removed by distillation at 140° C. The mixture was heated for 75 min. Cooled down to room temperature. Water was added (15 ml) and pH adjusted to 12 with sodium hydroxide (32.5%). The mixture was extracted with toluene (15 ml). The organic phase was separated, dried over potassium carbonate and evaporated.

reactant | trans-7-Methoxy-3-phenyl-4-{4-[2-(pyrrolidin-1-yl)ethoxy]phenyl}chromane | 2 g | COC1=CC=C2[C@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCN1CCCC1 | C28H31NO3
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
solvent | pyridinium chloride | [Cl-].[NH+]1=CC=CC=C1
product | (±)-trans-7-Hydroxy-3-phenyl-4-(4-(2-pyrrolidinoethoxy)phenyl)chromane | OC1=CC=C2[C@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCN1CCCC1 | C27H29NO3
